US03992535
N-(5-Ethyl-4-methyl-2-thiazolyl)-4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2thiazine-3-carboxamide-1,1-dioxide was prepared analogous to Example 22 from 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide and 2-amino-5-ethyl-4-methyl-thiazole. Yield: 63% of theory; m.p. 253°-255° C (decomp.; from ethanol).

reactant | 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 2-amino-5-ethyl-4-methyl-thiazole | NC=1SC(=C(N1)C)CC | C6H10N2S
solvent | ethanol | C(C)O | C2H6O
product | N-(5-Ethyl-4-methyl-2-thiazolyl)-4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2thiazine-3-carboxamide-1,1-dioxide | Yield: 63% | C(C)C1=C(N=C(S1)NC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C)C | C20H19N3O4S2
